US06150373
A mixture of 980 mg (1.22 mmol) of 1-[3-(2-t-butyldiphenylsilyloxyethyl)phenyl]-3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one and 5 ml of aniline was heated at 100° C. for 30 minutes. The reaction was allowed to cool then poured into 50 ml of 2M hydrochloric acid. The product was collected by filtration, washed with water (50 ml), then hexane (50 ml) and dried to give 960 mg (96%) of 7-anilino-1-[3-(2-tert-butyldiphenylsilyloxyethyl)phenyl]-3-(2,6-dichlorophenyl)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one as a fawn solid. [Mass spectrum (ESI) MH+ =744].

reactant | 1-[3-(2-t-butyldiphenylsilyloxyethyl)phenyl]-3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.22 mmol, 980 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)S(=O)(=O)C)C2=C(C=CC=C2Cl)Cl)=O | C37H36Cl2N4O4SSi
reactant | aniline | 5 ml | NC1=CC=CC=C1 | C6H7N
solvent | hydrochloric acid | 2M, 50 ml | Cl | ClH
product | 7-anilino-1-[3-(2-tert-butyldiphenylsilyloxyethyl)phenyl]-3-(2,6-dichlorophenyl)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 960 mg, 96% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2Cl)Cl)=O)C2=CC(=CC=C2)CCO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C42H39Cl2N5O2Si
